US03984397
To a solution of 2,2,2-trichloroethyl 2-methyl-2-bromomethyl-6-(2-phenylacetamido)penam-3-carboxylate(1.08 g.) in dimethylformamide (10 ml.) was added 1,8-diazabicyclo[5,4,0]undecene-7(360 mg.) under cooling at -50° to -60°C and stirred at the same temperature for an hour The inner temperature of the reaction mixture was raised to -10°C. The mixture was poured into a solution of ethyl acetate and dilute phosphoric acid and then extracted. The extract was washed with dilute phosphoric acid, water, a saturated aqueous solution of sodium bicarbonate and water in turn, treated with activated charcoal and dried over magnesium sulfate. After removing the solvent, the residue was purified by column chromatography on silica gel using chloroform as developing solvent to give 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylate(360 mg.), mp. 140° to 143°C.

reactant | 2,2,2-trichloroethyl 2-methyl-2-bromomethyl-6-(2-phenylacetamido)penam-3-carboxylate | 1.08 g | CC1(S[C@H]2N(C1C(=O)OCC(Cl)(Cl)Cl)C(C2NC(CC2=CC=CC=C2)=O)=O)CBr | C18H18BrCl3N2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(2-phenylacetamido)penam-3-carboxylate | 360 mg | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(CC3=CC=CC=C3)=O)=O | C18H17Cl3N2O4S
